US06713589B2
Into a 2-liter flask having a stirrer, a condenser and a thermometer, 144 g of 2-naphthol, 200 g of methanol and 40 g of PTS were introduced, and a solution of mixture of 66 g of cyclopentadiene and 60 g of methanol was added dropwise over a period of 3 hours while stirring the mixture at room temperature, followed by further stirring for 4 hours at room temperature. To the reaction solution thus obtained, THF and MIBK were added, and the resultant solution was washed with 200 ml of an aqueous 10% sodium hydroxide solution five times, and thereafter further washed with water until it turned neutral, followed by removal of the solvent using an evaporator. The results of analysis by GPC thereof are shown in FIG. 11. Its yield determined by GPC was 90% (area ratio). An NMR spectrum of the 1-(2-penten-1-yl)-2-naphthol obtained is shown in FIG. 12.

reactant | 2-naphthol | 144 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | methanol | 200 g | CO | CH4O
reactant | cyclopentadiene | 66 g | C1=CC=CC1 | C5H6
reactant | methanol | 60 g | CO | CH4O
reactant | THF | C1CCOC1 | C4H8O
solvent | MIBK | CC(C)CC(=O)C | C6H12O
product | 1-(2-penten-1-yl)-2-naphthol | C(C=CCC)C1=C(C=CC2=CC=CC=C12)O | C15H16O
